US08809012B2
Step 7: Synthesis of (4-propylphenyl)methanol
Under argon condition, tert-butyldimethyl((4-propylbenzyl)oxy)-silane (275 mg, 1.04 mmol) was dissolved in 5 mL of dry THF, and then n-butylammonium fluoride (TBAF; 1.56 mL, 1.0 M solution in tetrahydrofuran, 1.56 mmol) were slowly added thereto, and the mixture was stirred for 30 minutes at 0° C. Upon completion of the reaction, the reaction was terminated by adding 5 mL of aqueous saturated ammonium chloride solution. The reaction mixture was extracted with ethyl acetate (5 mL×4) and the organic layer thus obtained was treated with anhydrous magnesium sulfate to remove water. The precipitate was filtered out and the resulting solution was concentrated by distillation under reduced pressure and purified by column chromatography to obtain 198 mg (0.838 mmol, 95%) of the desired compound.

reactant | tert-butyldimethyl((4-propylbenzyl)oxy)-silane | 1.04 mmol, 275 mg | C(C)(C)(C)[Si](OCC1=CC=C(C=C1)CCC)(C)C | C16H28OSi
reactant | n-butylammonium fluoride | 1.56 mmol, 1.0 M, 1.56 mL | [F-].C(CCC)[NH3+]
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (4-propylphenyl)methanol | 0.838 mmol, 198 mg, 95% | C(CC)C1=CC=C(C=C1)CO | C10H14O
